US04556737
Dissolved in 4 ml of dimethylformamide were 2.00 g of triethylamine and 2.11 g of 4-(3-ethoxy-2-hydroxypropoxy)aniline. To the solution was added 1.25 g of methylmercaptoacetyl chloride with ice-cooling and the mixture was stirred at room temperature for 12 hours. The reaction mixture was concentrated and the residue was extracted with chloroform. The chloroform layer was washed with water and concentrated. The resulting residue was purified by silica gel column chromatography using a 1:5 ethanol-chloroform mixture, giving 2.85 g of 4-(3-ethoxy-2-hydroxypropoxy)phenylcarbamoylmethyl methyl sulfide in 95.3% yield.

reactant | triethylamine | 2.00 g | C(C)N(CC)CC | C6H15N
reactant | 4-(3-ethoxy-2-hydroxypropoxy)aniline | 2.11 g | C(C)OCC(COC1=CC=C(N)C=C1)O | C11H17NO3
reactant | methylmercaptoacetyl chloride | 1.25 g | CSCC(=O)Cl | C3H5ClOS
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 4-(3-ethoxy-2-hydroxypropoxy)phenylcarbamoylmethyl methyl sulfide | 2.85 g, 95.3% yield | CSCC(NC1=CC=C(C=C1)OCC(COCC)O)=O | C14H21NO4S
